US06344179B1
2β-Carbomethoxy-3β(4′-fluorophenyl)tropane (5e):
This compound was synthesized using a similar reaction as 2β-Carbomethoxy-3β-(4′-trimethylsilylphenyl)tropane starting with anhydroecognine methyl ester and 4-fluorophenylmagnesium bromide.

reactant | 2β-Carbomethoxy-3β-(4′-trimethylsilylphenyl)tropane | C(=O)(OC)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)[Si](C)(C)C)N2C | C19H29NO2Si
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
product | 2β-Carbomethoxy-3β(4′-fluorophenyl)tropane | C(=O)(OC)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)F)N2C | C16H20FNO2
